US04866091
An aqueous solution (200 ml) of calcium hypochlorite (21 g) was added to a solution of p-cyanoacetanilide (12.5 g) in ethanol (27 ml), acetic acid (27 ml), and water (27 ml). The mixture was stirred for 4 days and extracted with chloroform. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated to give a powder of 2'-chloro-4'-cyanoacetanilide (12.5 g).

reactant | calcium hypochlorite | 200 ml, 21 g | Cl[O-].[Ca+2].Cl[O-]
reactant | p-cyanoacetanilide | 12.5 g | C(#N)C1=CC=C(NC(C)=O)C=C1 | C9H8N2O
reactant | water | 27 ml | O | H2O
solvent | ethanol | 27 ml | C(C)O | C2H6O
solvent | acetic acid | 27 ml | C(C)(=O)O | C2H4O2
product | 2'-chloro-4'-cyanoacetanilide | 12.5 g | ClC1=C(NC(C)=O)C=CC(=C1)C#N | C9H7ClN2O
